US07452894B2
6(2-Furyl)-2-methoxy-9-(2-trimethylsilylethoxymethyl)-9H-purine (Example 74)
A solution of 2-chloro-6-(2-furyl)-9-(2-trimethylsilylethoxymethyl)-9H-purine (0.35 g, 1.0 mmol) and sodium methoxide (60 mg, 1.1 mmol) in methanol (5 mL) was refluxed for 23 h, cooled, concentrated in vacuo and the resulting solid treated with water, acidified to pH 4 with acetic acid, extracted with EtOAc, dried (Na2SO4), concentrated in vacuo and purified by chromatography [SiO2; EtOAc:heptane (1:1)]to give the title compound (232 mg, 67%) as a pale yellow solid.

reactant | 2-chloro-6-(2-furyl)-9-(2-trimethylsilylethoxymethyl)-9H-purine | 1.0 mmol, 0.35 g | ClC1=NC(=C2N=CN(C2=N1)COCC[Si](C)(C)C)C=1OC=CC1 | C15H19ClN4O2Si
reactant | sodium methoxide | 1.1 mmol, 60 mg | C[O-].[Na+]
solvent | methanol | 5 mL | CO | CH4O
product | 6(2-Furyl)-2-methoxy-9-(2-trimethylsilylethoxymethyl)-9H-purine | 232 mg, 67% | O1C(=CC=C1)C1=C2N=CN(C2=NC(=N1)OC)COCC[Si](C)(C)C | C16H22N4O3Si
